### PR TITLE
[Merged by Bors] - feat: define the coroots of a semisimple Lie algebra

### PR DESCRIPTION
**Pull request by ocfnash**
We define the coroots of a finite-dimensional semisimple Lie algebra with coefficients in a field characteristic zero and establish the key property that a coroot is complementary to the kernel of the root.

In addition we carry out some related, light refactoring. The most important points are:

- Promote `LieModule.weight` from a subtype to a structure `LieModule.Weight` + expand its API (we need this expanded API for the headline results).
- Replace the definition `LieAlgebra.rootSpaceProductNegSelf` with its range which we call `LieAlgebra.corootSpace` (in all places where we used this definition, it was the range that we actually used).
- Drop the very old (unused) definitions `LieAlgebra.IsRoot` and `LieModule.IsWeight`.

---

I could split up this PR into two or three pieces and I am happy to do so upon request.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/Basic.lean [hunk 1]
```diff
@@ -184,6 +185,48 @@ lemma weightSpace_le_weightSpaceOf (x : L) (χ : L → R) :
     weightSpace M χ ≤ weightSpaceOf M (χ x) x :=
   iInf_le _ x
 
+variable (R L) in
+/-- A weight of a Lie module is a map `L → R` such that the corresponding weight space is is
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Basic.lean:189]:
```suggestion
/-- A weight of a Lie module is a map `L → R` such that the corresponding weight space is
```

File: Mathlib/Algebra/Lie/Weights/Basic.lean [hunk 2]
```diff
@@ -184,6 +185,48 @@ lemma weightSpace_le_weightSpaceOf (x : L) (χ : L → R) :
...
+non-trivial. -/
+structure Weight where
+  /-- The family of eigenvalues corresponding to a weight. -/
+  toFun : L → R
+  weightSpace_ne_bot : weightSpace M toFun ≠ ⊥
+
+namespace Weight
+
+instance instFunLike :
+    FunLike (Weight R L M) L R where
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Basic.lean:199]:
```suggestion
instance instFunLike : FunLike (Weight R L M) L R where
```

File: Mathlib/Algebra/Lie/Weights/Basic.lean [hunk 3]
```diff
@@ -184,6 +185,48 @@ lemma weightSpace_le_weightSpaceOf (x : L) (χ : L → R) :
...
+
+variable {M}
+
+/-- The proposition that a weight of a Lie module is zero.
+
+We make this definition because we cannot define a `Zero (Weight R L M)` instance since the weight
+space of the zero function can be trivial. -/
+def IsZero (χ : Weight R L M) := (χ : L → R) = 0
+
+@[simp] lemma coe_eq_zero_iff (χ : Weight R L M) : (χ : L → R) = 0 ↔ χ.IsZero := Iff.rfl
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Basic.lean:215]: Is this a good simp lemma for the global simp set? I can imagine both sides are useful, and the RHS isn't clearly "simpler".

File: Mathlib/Algebra/Lie/Weights/Basic.lean [hunk 4]
```diff
@@ -184,6 +185,48 @@ lemma weightSpace_le_weightSpaceOf (x : L) (χ : L → R) :
...
+    (↑(⟨χ, h⟩ : Weight R L M) : L → R) = χ :=
+  rfl
+
+variable {M}
+
+/-- The proposition that a weight of a Lie module is zero.
+
+We make this definition because we cannot define a `Zero (Weight R L M)` instance since the weight
+space of the zero function can be trivial. -/
+def IsZero (χ : Weight R L M) := (χ : L → R) = 0
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Basic.lean:213]: Please add a lemma `IsZero.eq` that can be used to rewrite along `(χ : L → R) = 0` using dot-notation.

File: Mathlib/Algebra/Lie/Weights/Basic.lean [hunk 5]
```diff
@@ -184,6 +185,48 @@ lemma weightSpace_le_weightSpaceOf (x : L) (χ : L → R) :
...
+/-- The proposition that a weight of a Lie module is non-zero. -/
+abbrev IsNonZero (χ : Weight R L M) := ¬ IsZero (χ : Weight R L M)
+
+variable (R L M) in
+/-- The set of weights is equivalent to a subtype. -/
+def equivSetOf : Weight R L M ≃ {χ : L → R | weightSpace M χ ≠ ⊥} where
+  toFun w := ⟨w.1, w.2⟩
+  invFun w := ⟨w.1, w.2⟩
+  left_inv w := by simp
+  right_inv w := by simp
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Basic.lean:226]: Would it work to make this the actual definition? Or are there downsides to that?

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 6]
```diff
@@ -276,33 +246,51 @@ theorem rootSpace_zero_eq (H : LieSubalgebra R L) [H.IsCartanSubalgebra] [IsNoet
 variable {R L H}
 variable [H.IsCartanSubalgebra] [IsNoetherian R L] (α : H → R)
 
-/-- Given a root `α`, the Lie bracket restricted to the product of the root space of `α` and `-α`
-takes value in the Cartan subalgebra.
+/-- Given a root `α` relative to a Cartan subalgebra `H`, this is the span of all products of
+an element of the `α` root space and an element of the `-α` root space. Informally it is often
+denoted `⁅H(α), H(-α)⁆`.
+
+When `L` is semisimple over a field of characteristic zero, it is spanned by corresponding coroot
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean:253]:
```suggestion
When `L` is semisimple over a field of characteristic zero, it is spanned by the coroot
```

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 7]
```diff
@@ -276,33 +246,51 @@ theorem rootSpace_zero_eq (H : LieSubalgebra R L) [H.IsCartanSubalgebra] [IsNoet
...
+  simp_rw [this, corootSpace, ← LieModuleHom.map_top, ← LieSubmodule.mem_coeSubmodule,
     LieSubmodule.coeSubmodule_map, LieSubmodule.top_coeSubmodule, ← TensorProduct.span_tmul_eq_top,
     LinearMap.map_span, Set.image, Set.mem_setOf_eq, exists_exists_exists_and_eq]
   change (x : L) ∈ Submodule.span R
     {x | ∃ (a : rootSpace H α) (b : rootSpace H (-α)), ⁅(a : L), (b : L)⁆ = x} ↔ _
   simp
 
+lemma mem_corootSpace' {x : H} :
+    x ∈ corootSpace α ↔
+    x ∈ Submodule.span R {u : H | ∃ᵉ (y ∈ rootSpace H α) (z ∈ rootSpace H (-α)), ⁅y, z⁆ = u} := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean:280]: Does this work? Also on the line below?
```suggestion
    x ∈ Submodule.span R {⁅y, z⁆ : H | (y ∈ rootSpace H α) (z ∈ rootSpace H (-α))} := by
```

File: Mathlib/Algebra/Lie/Killing.lean [hunk 8]
```diff
@@ -537,63 +557,176 @@ lemma killingForm_apply_eq_zero_of_mem_rootSpace_of_add_ne_zero {α β : H → K
...
+noncomputable def cartanEquivDual :
+    H ≃ₗ[K] Module.Dual K H :=
+  (traceForm K H L).toDual <| traceForm_cartan_nondegenerate K L H
+
+/-- This is Proposition 4.18 from [carter2005] except that we use
+`LieModule.exists_forall_lie_eq_smul` instead of Lie's theorem (and so avoid
+assuming `K` has characteristic zero). -/
+lemma cartanEquivDual_symm_apply_mem_corootSpace (α : Weight K H L) :
+    (cartanEquivDual H).symm α ∈ corootSpace α := by
+  obtain ⟨e, he₀, he⟩ := exists_forall_lie_eq_smul K H L α
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Killing.lean:594]: Would you mind writing out the type of the existential, to improve readability a bit. (It's not that important, but since this is the step where you avoid char 0, I think it doesn't hurt to emphasize it.)

**Review by jcommelin — COMMENTED** [review]
This is great!

File: Mathlib/Algebra/Lie/Weights/Cartan.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Cartan.lean:280]: Not quite but a slight variation does, thanks:
```suggestion
    x ∈ Submodule.span R ({⁅y, z⁆ | (y ∈ rootSpace H α) (z ∈ rootSpace H (-α))} : Set H) := by
```

File: Mathlib/Algebra/Lie/Weights/Basic.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Basic.lean:212]: Good point, done! (And indeed it is useful.)

File: Mathlib/Algebra/Lie/Killing.lean (hunk 8 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Killing.lean:594]: Good idea, done!

File: Mathlib/Algebra/Lie/Weights/Basic.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Basic.lean:214]: I'm pretty keen on this being `simp` to establish the normal form as I've built all the API around the `IsZero` definition.

File: Mathlib/Algebra/Lie/Weights/Basic.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Basic.lean:227]: Dot notation fails and I have to manually author lemmas for named fields if I just use a `Subtype`. Possibly (though I'm not sure) I also encountered undesirable `simp` lemmas when I experimented with `Subtype` instead of `structure`.

So I think this is the right choice but I'm happy to investigate further if you wish.

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Weights/Basic.lean:227]: No need to investigate further, I'm convinced (-;

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 9]
```diff
@@ -277,7 +277,7 @@ lemma mem_corootSpace {x : H} :
 
 lemma mem_corootSpace' {x : H} :
     x ∈ corootSpace α ↔
-    x ∈ Submodule.span R {u : H | ∃ᵉ (y ∈ rootSpace H α) (z ∈ rootSpace H (-α)), ⁅y, z⁆ = u} := by
+    x ∈ Submodule.span R ({⁅y, z⁆ | (y ∈ rootSpace H α) (z ∈ rootSpace H (-α))} : Set H) := by
   set s : Set H := {u : H | ∃ᵉ (y ∈ rootSpace H α) (z ∈ rootSpace H (-α)), ⁅y, z⁆ = u}
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean:281]: I think you can use the same nice set builder notation on this line.

**Review by jcommelin — APPROVED** [review]
LGTM! One more comment.

bors d+

File: Mathlib/Algebra/Lie/Weights/Cartan.lean (hunk 9 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Cartan.lean]: Thanks; forgot to include that last time.

**Comment by ocfnash** [comment]
bors merge
